//
parameters nfin=14 rres=2k lastt=60n fin_n_diff2sing=12 fin_p_diff2sing=12 \
    width_n_diff2sing=10 width_p_diff2sing=16 fin_n_vco_type_2=12 \
    fin_p_vco_type_2=12 fnnn=36 fppp=8 VDD=0.8 VBIAS=0.7 wpppn=1 wnnn=1


subckt three_terminal_inv VDD VSS VBIAS VIN VOUT
parameters _ar0 _ar1 _ar2 _ar3 _ar4 _ar5
    MN34 (VOUT VIN net1 VSS) lvtnfet m=1 l=14n nfin=_ar0 nf=_ar2
    MN33 (net1 VIN VSS VSS) lvtnfet m=1 l=14n nfin=_ar0 nf=_ar2
    MP34 (VOUT VBIAS net2 VDD) lvtpfet m=1 l=14n nfin=_ar3 nf=_ar4
    MP33 (net2 VBIAS VDD VDD) lvtpfet m=1 l=14n nfin=_ar3 nf=_ar4
ends three_terminal_inv
// End of subcircuit definition.

// Library name: CAD_modules
// Cell name: VCO_type2_12
// View name: schematic
subckt VCO_type2_65 VDD VSS o\<1\> o\<2\> o\<3\> o\<4\> o\<5\> o\<6\> \
        o\<7\> o\<8\> op\<1\> VBIAS
parameters _ar0 _ar1 _ar2 _ar3 _ar4 _ar5
    I1\<1\> (VDD VSS VBIAS o\<1\> o\<2\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<2\> (VDD VSS VBIAS o\<2\> o\<3\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<3\> (VDD VSS VBIAS o\<3\> o\<4\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<4\> (VDD VSS VBIAS o\<4\> o\<5\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<5\> (VDD VSS VBIAS o\<5\> o\<6\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<6\> (VDD VSS VBIAS o\<6\> o\<7\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<7\> (VDD VSS VBIAS o\<7\> o\<8\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<8\> (VDD VSS VBIAS o\<8\> op\<1\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
ends VCO_type2_65

